US08217064B2
Ethyl 2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)acetate (4 g, 16.2 mmol) was dissolved in 50 mL anhydrous DMF and NaH (60% wt. in oil, 0.846 g, 21.1 mmol) was added at 0° C. The reaction mixture was stirred for 0.5 h at 25° C. and isobutyl bromide (2.12 mL, 19.5 mmol) was added drop wise at 0° C. The reaction mixture was stirred at 0° C. for 1 h and saturated NH4Cl solution was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give ethyl 4-methyl-2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)pentanoate (1.5 g) as a colorless oil.

reactant | Ethyl 2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)acetate | 16.2 mmol, 4 g | [N+](=O)([O-])C1=C(C=C(C=C1)CC(=O)OCC)OCC(F)(F)F | C12H12F3NO5
reactant | NaH | 21.1 mmol, 0.846 g | [H-].[Na+]
reactant | isobutyl bromide | 19.5 mmol, 2.12 mL | C(C(C)C)Br | C4H9Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 4-methyl-2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)pentanoate | 1.5 g | CC(CC(C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])OCC(F)(F)F)C | C16H20F3NO5
